US06187393B1
Preparation of 1-(4-[(E)-hex-2-enyloxy]phenyl)-4-pentylbicyclo[2.2.2]octane
Triphenylphosphine (0.34 g, 0.0013 mol) was added in small portions to a solution of (E)-hex-2-en-1-ol (0.13 g, 0.0013 mol), 4-(4-pentylbicyclo[2.2.2]octyl)phenol (0.35 g, 0.0013 mol), diethylazodicarboxylate (0.22 g, 0.0013 mol) in dry tetrahydrofuran (20 cm3), cooled in an ice bath under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the crude product was purified by column chromatography on silica gel using a 9:1 petroleum ether (40-60° C./ethyl acetate mixture as eluent, followed by recrystallisation from ethanol to yield 0.18 g (39%), K 69° C., SA-N 59° C., N-I 134° C.

reactant | Triphenylphosphine | 0.0013 mol, 0.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-hex-2-en-1-ol | 0.0013 mol, 0.13 g | C(\C=C\CCC)O | C6H12O
reactant | 4-(4-pentylbicyclo[2.2.2]octyl)phenol | 0.0013 mol, 0.35 g | C(CCCC)C12CCC(CC1)(CC2)C2=CC=C(C=C2)O | C19H28O
reactant | diethylazodicarboxylate | 0.0013 mol, 0.22 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-(4-[(E)-hex-2-enyloxy]phenyl)-4-pentylbicyclo[2.2.2]octane | C(\C=C\CCC)OC1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C25H38O
